US04306098
A mixture of trichloroanisole (0.1 g mol; 21.15 g) and 1,2,4,5-tetrachlorobenzene (10 g) in xylene (80 ml) was heated at 80° C. with aluminium trichloride (0.05 mole; 6.65 g) for five hours. Trichlorophenol was isolated in 97% yield (based on trichloroanisole) as described in Example I below. Unchanged tetrachlorobenzene, together with xylene self condensation product (total 13.25 g) was isolated from the neutral product fraction after solvent removal.

reactant | trichloroanisole | 0.1 g | ClC(OC1=CC=CC=C1)(Cl)Cl | C7H5Cl3O
reactant | 1,2,4,5-tetrachlorobenzene | 10 g | ClC1=C(C=C(C(=C1)Cl)Cl)Cl | C6H2Cl4
reactant | aluminium trichloride | 0.05 mole, 6.65 g | [Cl-].[Cl-].[Cl-].[Al+3]
solvent | xylene | 80 ml | C=1(C(=CC=CC1)C)C | C8H10
product | Trichlorophenol | 97% yield | ClC1=C(C(=C(C=C1)O)Cl)Cl | C6H3Cl3O
